US08293923B2
Step 6: (2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-1-phenyl-1H-benzo[d]imidazol-5-yl)methanol
A mixture of (2-(5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-phenyl-1H-benzo[d]imidazol-5-yl)methanol (0.024 g, 0.000040 mol) and 0.03 M HCl (1 mL,) in ethanol (3 mL) was heated at 100° C. for 2 hours. The reaction was concentrated and the residue was dissolved in DMSO and purified by HPLC.

reactant | (2-(5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-phenyl-1H-benzo[d]imidazol-5-yl)methanol | 0.000040 mol, 0.024 g | COC1=C(C=NC=C1)C=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)NC1=NC2=C(N1C1=CC=CC=C1)C=CC(=C2)CO | C33H36N6O3Si
reactant | HCl | 0.03 M, 1 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-1-phenyl-1H-benzo[d]imidazol-5-yl)methanol | COC1=C(C=NC=C1)C=1C=C2C(=NNC2=CC1)NC1=NC2=C(N1C1=CC=CC=C1)C=CC(=C2)CO | C27H22N6O2
